US08541445B2
Step 2: 2-(4-(1-trityl-1H-pyrazolo[3,4-b]pyridin-4-yl)-1H-pyrazol-1-yl)ethanenitrile
A mixture of 4-(1H-pyrazol-4-yl)-1-trityl-pyrazolo[5,4-b]pyridine (3.824 g, 8.945 mmol) and potassium carbonate (9.890 g, 71.56 mmol) in dry THF (100.0 mL) was treated with 2-bromoacetonitrile (8.583 g, 4.984 mL, 71.56 mmol) and heated at 90° C. for 5 hours. The reaction was allowed to cool and treated with brine/ EtOAc and the 2 layers separated. The combined organics were dried (MgSO4), filtered, concentrated and purified by column chromatography (1:1 Petroleum ether/EtOAc) to give a white solid on concentration. The material was taken forward to the next step. 1H NMR (CDCl3, 400 MHz) δ 5.21 (2H, s), 7.06 (1H, s), 7.27-7.28 (15H, m), 8.04 (2H, m), 8.25 (2H, m); MS (ES+) 467.19

reactant | 4-(1H-pyrazol-4-yl)-1-trityl-pyrazolo[5,4-b]pyridine | 8.945 mmol, 3.824 g | N1N=CC(=C1)C1=C2C(=NC=C1)N(N=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H21N5
reactant | potassium carbonate | 71.56 mmol, 9.890 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoacetonitrile | 71.56 mmol, 4.984 mL, 8.583 g | BrCC#N | C2H2BrN
reactant | brine EtOAc | [Cl-].[Na+].O.CCOC(=O)C
solvent | THF | 100.0 mL | C1CCOC1 | C4H8O
product | 2-(4-(1-trityl-1H-pyrazolo[3,4-b]pyridin-4-yl)-1H-pyrazol-1-yl)ethanenitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC=2C1=NC=CC2C=2C=NN(C2)CC#N | C30H22N6
